US05985858
189 g of triethyl phosphite was added to 84 g of 5-bromomethyl-2-thiophenecarboxylic acid obtained above, and the mixture was stirred with heating at 160° C. for 1 hour. The reaction mixture was dissolved in 200 ml of ethanol, and 190 ml of a 4N aqueous solution of sodium hydroxide was slowly added dropwise with ice-cooling and stirring. After stirring the resulting mixture at room temperature for 12 hours, 200 ml of dichloromethane was added for separating the reaction mixture. The obtained aqueous layer was mixed with 300 ml of a 30% aqueous solution of hydrochloric acid and subjected to extraction with chloroform. The chloroform layer was dried over anhydrous magnesium sulfate. Then, the solvent was distilled off under reduced pressure, giving 95 g of 5-[(diethoxyphosphoryl)methyl]-2-thiophenecarboxylic acid as colorless crystals having a melting point of 77-78° C.

reactant | triethyl phosphite | 189 g | P(OCC)(OCC)OCC | C6H15O3P
reactant | 5-bromomethyl-2-thiophenecarboxylic acid | 84 g | BrCC1=CC=C(S1)C(=O)O | C6H5BrO2S
reactant | sodium hydroxide | [OH-].[Na+]
reactant | dichloromethane | 200 ml | ClCCl | CH2Cl2
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 5-[(diethoxyphosphoryl)methyl]-2-thiophenecarboxylic acid | 95 g | C(C)OP(=O)(OCC)CC1=CC=C(S1)C(=O)O | C10H15O5PS
